US07517873B2
To a mixture of 0.28 g (0.001 mole) of (rac)-2-chloro-9-cyclopentyl-8-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one, 2 mL of N,N-dimethylacetamide and 0.093 mL (0.0015 mole) of iodomethane at 0 degrees was added 0.06 g (0.0015 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 10 mL of water was added. The precipitate collected by filtration to give 0.278 g of (rac)-2-chloro-9-cyclopentyl-5,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-3) as an yellow solid.

reactant | (rac)-2-chloro-9-cyclopentyl-8-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.001 mole, 0.28 g | ClC=1N=CC2=C(N(C(CC(N2)=O)C)C2CCCC2)N1 | C13H17ClN4O
reactant | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
reactant | iodomethane | 0.0015 mole, 0.093 mL | IC | CH3I
reactant | sodium hydride | 0.0015 mole, 0.06 g | [H-].[Na+]
solvent | water | 10 mL | O | H2O
product | (rac)-2-chloro-9-cyclopentyl-5,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.278 g | ClC=1N=CC2=C(N(C(CC(N2C)=O)C)C2CCCC2)N1 | C14H19ClN4O
